US09085583B2
To a solution of 3-iodopyridin-2-amine (5.5 g, 25 mmol) in dimethylsulfoxide (40 mL) were added methyl acetoacetate (3.48 g, 30 mmol), copper iodide (476 mg, 2.5 mmol), 1,1′-binaphthyl-2,2′-diol (1.43 g, 5.0 mmol) and cesium carbonate (8.15 g, 25 mmol). The resultant mixture was stirred at 50° C. for 4 hours. To the reaction mixture was added ethyl acetate (400 mL). The organic phase was washed with brine (80 mL×3), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give crude product which was purified by column chromatography (petroleum ether/ethyl acetate=4:1) to afford methyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (1.02 g, 21.4%) as a white solid. 1H NMR (300 MHz, CD3OD): δ 8.46-8.43 (m, 1H), 7.61-6.69 (m, 2H), 3.89 (s, 3H), 2.73 (s, 3H).

reactant | 3-iodopyridin-2-amine | 25 mmol, 5.5 g | IC=1C(=NC=CC1)N | C5H5IN2
reactant | methyl acetoacetate | 30 mmol, 3.48 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 1,1′-binaphthyl-2,2′-diol | 5.0 mmol, 1.43 g | C=1(C(=CC=C2C=CC=CC12)O)C=1C(=CC=C2C=CC=CC12)O | C20H14O2
reactant | cesium carbonate | 25 mmol, 8.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylsulfoxide | 40 mL | CS(=O)C | C2H6OS
catalyst | copper iodide | 2.5 mmol, 476 mg | [Cu](I)I
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 1.02 g, 21.4% | CC1=C(C=2C(=NC=CC2)N1)C(=O)OC | C10H10N2O2
